US05166406
2-Acetyl-2-[2-(benzyloxycarbonyl)ethyl]cyclohexanone
To a solution of 2-acetylcyclohexanone (9.6 g, 0.068 mol), potassium carbonate (11.3 g, 0.082 mol) and benzyltriethylammonium chloride (0.3 g, 0.0013 mol) in toluene (26 ml), was added benzyl acrylate (16.72 g, 0.103 mol) at room temperature. The mixture was heated at 40° C. for 20 hours, cooled, partitioned between water (200 ml) and toluene (200 ml) and toluene (200 ml) and the layers separated. The aqueous layer was extracted with toluene (2×200 ml), the combined organic extracts dried over magnesium sulphate, filtered and concentrated under reduced pressure to provide the title compound as a pale yellow oil, (20.7 g), Rf. 0.2 (silica, hexane/diethyl ether, 2:1). The crude product was used without further purification.

reactant | 2-acetylcyclohexanone | 0.068 mol, 9.6 g | C(C)(=O)C1C(CCCC1)=O | C8H12O2
reactant | potassium carbonate | 0.082 mol, 11.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl acrylate | 0.103 mol, 16.72 g | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
catalyst | benzyltriethylammonium chloride | 0.0013 mol, 0.3 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | toluene | 26 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Acetyl-2-[2-(benzyloxycarbonyl)ethyl]cyclohexanone | 20.7 g | C(C)(=O)C1(C(CCCC1)=O)CCC(=O)OCC1=CC=CC=C1 | C18H22O4
